US06559162B2
4-({3-[3-Azabicyclo[3.2.1]oct-8-yl(methyl)amino]propyl}amino)-benzonitrile
A mixture of 3-benzyl-N-methyl-3-azabicyclo[3.2.1]octan-8-amine (Preparation B; 4.0 g, 17.4 mmol), 3-(4-cyanoanilino)propyl 4-methyl-benzenesulfonate (Preparation G(ii); 5.74 g, 17.4 mmol), and potassium carbonate (2.40 g, 17.4 mmol) in DMF (85 mL) was heated at 90° C. under nitrogen overnight. The mixture was partitioned with water (200 mL) and diethyl ether (150 mL). The aqueous layer was extracted with ethyl acetate (2×50 mL). The combined organic extracts were washed with brine (2×30 mL), dried (Na2SO4), filtered and then concentrated in vacuo. The residue was chromatographed on silica gel, eluting with dichloromethane:methanol (98:2), to afford 3.40 g (50%) of the sub-title compound as a white solid.

reactant | 3-benzyl-N-methyl-3-azabicyclo[3.2.1]octan-8-amine | 17.4 mmol, 4.0 g | C(C1=CC=CC=C1)N1CC2CCC(C1)C2NC | C15H22N2
reactant | 3-(4-cyanoanilino)propyl 4-methyl-benzenesulfonate | 17.4 mmol, 5.74 g | CC1=CC=C(C=C1)S(=O)(=O)OCCCNC1=CC=C(C=C1)C#N | C17H18N2O3S
reactant | potassium carbonate | 17.4 mmol, 2.40 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 85 mL | CN(C)C=O | C3H7NO
product | 4-({3-[3-Azabicyclo[3.2.1]oct-8-yl(methyl)amino]propyl}amino)-benzonitrile | 3.40 g, 50% | C12CNCC(CC1)C2N(CCCNC2=CC=C(C#N)C=C2)C | C18H26N4
